2106-11-05 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 8pm hct: 27.2, repeat 25- given 1U PRBC- repeat hct 23.4
   -started golytely
   -CE negative x2
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-5**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 91 (77 - 91) bpm
   BP: 134/81(88) {96/43(52) - 172/110(117)} mmHg
   RR: 22 (13 - 99) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,911 mL
                                                                    457 mL
   PO:
                                                                    700 mL
                                                                    200 mL
   TF:
   IVF:
                                                                    511 mL
                                                                    257 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,460 mL
                                                                    355 mL
   Urine:
                                                                  1,460 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   8.7 g/dL
   194 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   30 mg/dL
   104 mEq/L
   138 mEq/L
   25.0 %
   8.0 K/uL
        [image002.jpg]
                            [**2106-11-4**]  07:18 PM
                            [**2106-11-5**]  01:15 AM
   WBC
   8.0
   Hct
   27.2
   25.0
   Plt
   209
   Cr
   0.9
   TropT
   <0.01
   Glucose
   194
   Other labs: PT / PTT / INR:12.7/21.6/1.1, CK / CKMB /
   Troponin-T:37//<0.01, Differential-Neuts:73.6 %, Lymph:19.1 %, Mono:4.4
   %, Eos:2.7 %, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is an 83 y/o woman with PMH notable for type 2 DM, hypertension,
   and recent NSTEMI in setting of hypoglycemia admitted with multiple
   episodes of BRBPR.
   .
   # GI bleeding: Appears to be lower GI bleeding given history. The
   patient does have multiple diverticula on prior colonoscopy, making
   this the most likely source. She also had rectal ulceration in prior
   colonoscopy and rectal pain could correlate with a recurrence of this.
   Less likely is upper GI bleeding but does use ibuprofen for arthritis
   at times.
   - maintain 2 18 g PIVs
   - active T&C, 2 U PRBCs ordered in the ED
   - recheck hct 4 hours after blood complete & q6h therafter
   - appreciate GI input
   - prep for colonoscopy tomorrow, golytely starting this afternoon
   - ppi [**Hospital1 **] for now
   - clears this afternoon, NPO after midnight
   - if large volume bleeding or patient unstable, plan for transfusion
   and will likely need bleeding scan/possible angio
   .
   # Recent NSTEMI: Patient had cardiac enzyme elevation on prior
   admission. EKG unchanged on arrival and no overt symptoms of ischemia.
   Getting transfused with goal Hct 28.
   - repeat CEs with evening Hct
   - ekg tomorrow am
   - hold aspirin for now
   - hold beta blocker so that tachycardia not masked
   - continue pravastatin
   .
   # Type 2 DM: Hold home metformin while hospitalized.
   - sliding scale insulin & fingersticks four times daily
   .
   # Hypertension: Patient on toprol XL and cozaar as outpatient.
   - hold beta blocker
   - if persistently hypertension, could restart cozaar, potentially at
   lower dose
   .
   # FEN: NPO after midnight, clears this afternoon, replete lytes prn
   .
   # PPx: pneumoboots, PPI [**Hospital1 **], golytely for prep
   .
   # CODE: full, confirmed with daughter who is HCP
   .
   # COMM: With patient and family. daughter [**Last Name (NamePattern1) 2780**]is HCP, ([**Telephone/Fax (1) 2781**] home, ([**Telephone/Fax (1) 2782**] cell; son [**Name (NI) **] [**Name (NI) 74**] (works at [**Hospital1 1**])
   [**Telephone/Fax (1) 2783**] cell, [**Telephone/Fax (1) 1087**] home.
   .
   # DISP: ICU care for now
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-11-4**] 12:09 PM
   20 Gauge - [**2106-11-5**] 01:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-11-06 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2106-11-5**] 12:00 PM
   tag red scan in Nec med
   -pt decided she was done with taged red cell scan with 30 min left in
   study limiting results of study
   -pt refused to drink significant amounts of Go lytely for colonoscopy
   -HCT increased to 34.
   - refusing blood draws this am
   Allergies:
   Ace Inhibitors
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-11-6**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-6**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 76 (71 - 92) bpm
   BP: 153/63(90) {105/47(67) - 181/110(119)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,785 mL
                                                                     64 mL
   PO:
                                                                  1,250 mL
             TF:
   IVF:
                                                                    485 mL
                                                                     64 mL
   Blood products:
                                                                  1,050 mL
   Total out:
                                                                  2,235 mL
                                                                    600 mL
   Urine:
                                                                  2,235 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    550 mL
                                                                   -536 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   Gen: NAD, pleasant and appropriate
   HEENT: NCAT MMM anicteric pale conjunctiva
   CV: RRR, 2/6 systolic murmur at LUSB
   LUNGS: clear bilaterally, no wheezing or rhonchi
   ABD: soft, hypoactive bowel sounds, nontender throughout
   EXT: warm, trace pitting edema bilateral LE, dp pulses 1+ bilaterally
   SKIN: no rashes
   NEURO: alert & oriented x3
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   8.7 g/dL
   194 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.3 mEq/L
   30 mg/dL
   104 mEq/L
   138 mEq/L
   34.4 %
   8.0 K/uL
        [image002.jpg]
                            [**2106-11-4**]  07:18 PM
                            [**2106-11-5**]  01:15 AM
                            [**2106-11-5**]  07:57 AM
                            [**2106-11-5**]  06:10 PM
   WBC
   8.0
   Hct
   27.2
   25.0
   23.4
   34.4
   Plt
   209
   Cr
   0.9
   TropT
   <0.01
   Glucose
   194
   Other labs: PT / PTT / INR:12.7/21.6/1.1, CK / CKMB /
   Troponin-T:37//<0.01, Differential-Neuts:73.6 %, Lymph:19.1 %, Mono:4.4
   %, Eos:2.7 %, Ca++:8.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is an 83 y/o woman with PMH notable for type 2 DM, hypertension,
   and recent NSTEMI in setting of hypoglycemia admitted with multiple
   episodes of BRBPR.
   .
   # GI bleeding: Decreased melanotic stools overnight but continues to
   have hematocrit drops. Since the patient did not complete her GI prep
   will not get colonoscopy today, but will instead order bleeding scan
   given her persistent anemia despite 3U blood. Currently getting 2 more
   units this AM.
   - maintain 2 18 g PIVs
   - recheck hct 4 hrs post 2^nd unti
   - bleeding scan
   - f/u GI recs for today
   - ppi [**Hospital1 **] for now
   - NPO
   .
   # Recent NSTEMI: Patient had cardiac enzyme elevation on prior
   admission. EKG unchanged on arrival and no overt symptoms of ischemia.
   CE negative
   - transfuse for hct<28
   - hold aspirin for now
   - hold beta blocker so that tachycardia not masked
   - continue pravastatin
   .
   # Type 2 DM: Hold home metformin while hospitalized. Elevated blood
   sugars overnight.
   - increase sliding scale insulin & fingersticks four times daily
   .
   # Hypertension: Normotensive overnight for the most part. Patient on
   toprol XL and cozaar as outpatient.
   - hold beta blocker
   - if persistently hypertension, could restart cozaar, potentially at
   lower dose
   .
   # FEN: NPO, clears this afternoon, replete lytes prn
   .
   # PPx: pneumoboots, PPI [**Hospital1 **]
   .
   # CODE: full, confirmed with daughter who is HCP
   .
   # COMM: With patient and family. daughter [**Last Name (NamePattern1) 2780**]is HCP, ([**Telephone/Fax (1) 2781**] home, ([**Telephone/Fax (1) 2782**] cell; son [**Name (NI) **] [**Name (NI) 74**] (works at [**Hospital1 1**])
   [**Telephone/Fax (1) 2783**] cell, [**Telephone/Fax (1) 1087**] home.
   .
   # DISP: ICU care for now until bleeding controlled
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 DIABETES MELLITUS (DM), TYPE II
 INEFFECTIVE COPING
 KNOWLEDGE DEFICIT
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-11-4**] 12:09 PM
   20 Gauge - [**2106-11-5**] 01:18 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: